US06022492
Synthesis of 2-[2,3-difluoro-4-(2-(S)-fluorodecyloxy)phenyl]-5-(6-octyloxypyridin-3-yl)pyrimidine
3.2 mmol of diethyl azodicarboxylate are added dropwise at 0° C. to 3.2 mmol of triphenylphosphine in 20 ml of THF, and the mixture is stirred at room temperature for a further 20 minutes. 2.4 mmol of 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine and 2.4 mmol of 2-(S)-fluorodecanol are then added, and the reaction mixture is allowed to stand overnight. After the solvent has been removed in vacuo, the crude product is chromatographed on silica gel 60 using dichloromethane/ethyl acetate 20:1 (v/v) as eluent and is recrystallized from acetonitrile, giving 1.2 g (86%) of colorless crystals, X 97 SC * 150.5 SA 161.5 I.

reactant | diethyl azodicarboxylate | 3.2 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2,3-difluoro-4-hydroxyphenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 2.4 mmol | FC1=C(C=CC(=C1F)O)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC | C23H25F2N3O2
reactant | 2-(S)-fluorodecanol | 2.4 mmol | F[C@H](CO)CCCCCCCC | C10H21FO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-[2,3-difluoro-4-(2-(S)-fluorodecyloxy)phenyl]-5-(6-octyloxypyridin-3-yl)pyrimidine | 1.2 g, 86% | FC1=C(C=CC(=C1F)OC[C@H](CCCCCCCC)F)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC | C33H44F3N3O2
